US07169761B2
Boron trifluoride-diethyl ether complex (0.39 ml) and triisopropylsilane (1.23 ml) were added dropwise to a solution of 2,3,4,6-tetra-O-benzyl-1-C-[3-[(3-methylazulen-1-yl) methyl]phenyl]-D-glucopyranose (2.3 g) in acetonitrile (40 ml) at −40° C. and the mixture was stirred for two hours. Saturated aqueous solution of potassium carbonate was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-[(3-methyl azulen-1-yl)methyl]phenyl]-D-glucitol (1.47 g).

reactant | triisopropylsilane | 1.23 ml | C(C)(C)[SiH](C(C)C)C(C)C | C9H22Si
reactant | 2,3,4,6-tetra-O-benzyl-1-C-[3-[(3-methylazulen-1-yl) methyl]phenyl]-D-glucopyranose | 2.3 g | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=CC=C1)CC1=CC(=C2C=CC=CC=C12)C | C52H50O6
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-[(3-methyl azulen-1-yl)methyl]phenyl]-D-glucitol | 1.47 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=CC=C1)CC1=CC(=C2C=CC=CC=C12)C | C52H50O5
